US07741315B2
Step 1: 2-[11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-deca-hydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]-N,N-dimethylacetamide
A solution of [11-(3-chloro-4-fluorobenzyl)-9-hydroxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-deca-hydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]acetic acid (25 mg, 0.05 mmol), BOP (28 mg, 0.06 mmol), diisopropylethylamine (7 mg, 0.07 mmol) and dimethylamine (0.11 mL, 2M in THF) in DMF (0.5 mL) was stirred at room temperature overnight. The product mixture was concentrated under vacuum. The residue was subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and lyophilization of appropriate fractions afforded the title compound.

reactant | [11-(3-chloro-4-fluorobenzyl)-9-hydroxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-deca-hydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]acetic acid | 0.05 mmol, 25 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CC(=O)O)=O)=O)O)=O)C=CC1F | C22H21ClFN3O6
reactant | BOP | 0.06 mmol, 28 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.07 mmol, 7 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | 2M, 0.11 mL | CNC | C2H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-[11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-deca-hydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]-N,N-dimethylacetamide | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CC(=O)N(C)C)=O)=O)O)=O)C=CC1F | C24H26ClFN4O5
